US04252976
Preparation of diethyl thien-3-ylmalonate
Potassium hydroxide (0.14 g, 2.0 mmol) in ethanol (50 ml) was saturated with hydrogen sulphide at 0° for one hour. To this was added 4-trans ethyl-2-ethoxycarbonyl-5-chloro-3-chloromethylpenta-2,4-dienoate (0.62 g, 2.45 mmol), and addition of hydrogen sulphide was continued for one hour at room temperature. The reaction mixture was stirred for a further four hours. Potassium hydroxide (0.20 g, 2.8 mmol) was added and hydrogen sulphide passed for thirty minutes. The reaction mixture was stirred at room temperature for sixteen hours, diluted with water (50 ml) and extracted with ether (3×50 ml). The extracts were washed with saturated brine, N sodium bicarbonate solution, saturated brine, dried (Na2SO4) and evaporated to give the title compound (78% yield) purified by distillation, b.p. 119°-127°/0.5 mm. δ (CDCl3) 1.27 (6H, t, J 7 Hz, CH3), 4.20 (4H, q, J 7 Hz, OCH2), 4.75 (1H, s, CH), 7.20-7.43 (3H, m, thienyl protons), νmax (film) 1730 cm-1, λmax (ethanol) 234 nm. C11H14O4S requires M, 242.0649. Found M+, 242.0609.

reactant | Potassium hydroxide | 2.0 mmol, 0.14 g | [OH-].[K+]
reactant | hydrogen sulphide | S | H2S
reactant | 4-trans ethyl-2-ethoxycarbonyl-5-chloro-3-chloromethylpenta-2,4-dienoate | 2.45 mmol, 0.62 g | C(C)OC(C(=C(\C=C\Cl)CCl)C(=O)OCC)=O | C11H14Cl2O4
reactant | Potassium hydroxide | 2.8 mmol, 0.20 g | [OH-].[K+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | water | 50 ml | O | H2O
product | diethyl thien-3-ylmalonate | 78% yield | S1C=C(C=C1)C(C(=O)OCC)C(=O)OCC | C11H14O4S
